US04064236
A mixture of 0.01 moles of 5-benzyloxycarbonylamino1-ethoxycarbonylpentyl acetylprolylalanylprolyl-2-azaalaninate and 0.2 gm of 10% Pd/C in 200 ml of 1.0 N-ethanolic hydrogen chloride is hydrogenated at room temperature. When the required amount of hydrogen has been taken up the reaction mixture is filtered and concentrated in vacuo to give 5-amino-1-ethoxycarbonylpentyl acetylprolylalanylprolyl-2-azaalaninate hydrochloride.

reactant | 5-benzyloxycarbonylamino1-ethoxycarbonylpentyl acetylprolylalanylprolyl-2-azaalaninate | 0.01 moles | C(C)(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N2[C@H](C(=O)NN(C)C(=O)OC(CCCCNC(=O)OCC3=CC=CC=C3)C(=O)OCC)CCC2)CCC1 | C33H48N6O10
reactant | hydrogen chloride | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.2 gm | [Pd] | Pd
product | 5-amino-1-ethoxycarbonylpentyl acetylprolylalanylprolyl-2-azaalaninate hydrochloride | Cl.C(C)(=O)N1[C@H](C(=O)N[C@@H](C)C(=O)N2[C@H](C(=O)NN(C)C(=O)OC(CCCCN)C(=O)OCC)CCC2)CCC1 | InChI=1S/C25H42N6O8.ClH/c1-5-38-24(36)20(12-6-7-13-26)39-25(37)29(4)28-22(34)19-11-9-15-31(19)23(35)16(2)27-21(33)18-10-8-14-30(18)17(3)32;/h16,18-20H,5-15,26H2,1-4H3,(H,27,33)(H,28,34);1H/t16-,18-,19-,20?;/m0./s1
